US04408077
2-Methoxy-5-methyl-1-(trifluoromethyl)naphthalene (VII, R=CH3)
Dimethylsulfate (1.13 g, 8.75 mmol, 0.85 mL) was added to a stirred suspension of 5-methyl-1-(trifluoromethyl)-2-naphthalenol (1.8 g, 7.96 mmol) and potassium carbonate (2.2 g, 15.9 mmol) in dimethylformamide (20 mL). After stirring the reaction mixture for 2 hr at 25° C., the solid in the reaction mixture was removed by filtration. The filtrate was extracted with hexane (400 mL). The extract was washed with brine, dried (MgSO4) and concentrated to dryness giving 1.7 g (90% yield) of the title compound. This product was used for the reaction described in the next example. A sample of the product, recrystallized from hexane, had mp 70°-71° C.; nmr (CDCl3) δ 2.65 (s, 3H), 3.95 (s, 3H), 7.2 (m, 2H), 7.35 (q, J=8 Hz, 1H), 8.0 (m, 1H), 8.1 (d, J=9 Hz, 1H); ir (CHCl3) 1390, 1340, 1280, 1255, 1245, 1110, 1095, 1085,1045 cm-1 ; uvλmax (MeOH) 336 nm (ε2,910), 323 (2,645), 297 (4,440), 286 (4,880), 236 (30,050), 224 (46,730).

reactant | Dimethylsulfate | 8.75 mmol, 0.85 mL, 1.13 g | COS(=O)(=O)OC | C2H6O4S
reactant | 5-methyl-1-(trifluoromethyl)-2-naphthalenol | 7.96 mmol, 1.8 g | CC1=C2C=CC(=C(C2=CC=C1)C(F)(F)F)O | C12H9F3O
reactant | potassium carbonate | 15.9 mmol, 2.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-Methoxy-5-methyl-1-(trifluoromethyl)naphthalene | 1.7 g, 90% yield | COC1=C(C2=CC=CC(=C2C=C1)C)C(F)(F)F | C13H11F3O
